US04014874
A solution of 0.39 g of diphenyldiazomethane in 5 ml of petroleum ether is added dropwise over the course of half an hour to a solution of 0.5 g of 3-methylthiomethyl-7β -phenylacetylamino-2-cephem-4α-carboxylic acid in 20 ml of dioxane, while stirring. The solution is stirred for a further 15 hours at room temperature, treated with a few drops of glacial acetic acid and concentrated under reduced pressure. The residue is recrystallised from methyl acetate and gives pure 3-methylthiomethyl-7β-phenylacetylamino-2-cephem-4α-carboxylic acid diphenylmethyl ester which is dried for 16 hours at room temperature in a high vacuum. Melting point 175-177° C; thin layer chromatogram (silica gel): Rf = 0.77 (system: chloroform/methanol, 1:1); Rf = 0.17 (system: toluene/acetone, 2:1); [α]D20 + 342° ± 1° (c = 1.011 in dioxane); ultraviolet absorption spectrum (in 95% strength aqueous ethanol): λmax = 255 mμ (ε = 7,800) and λmin = 244 mμ (ε = 7,200), infra-red absorption spectrum (in methylene chloride): characteristic bands at 2.92μ, 5.61μ, 5.73μ, 5.92μ, 6.25μ and 6.67μ.

reactant | diphenyldiazomethane | 0.39 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | 3-methylthiomethyl-7β -phenylacetylamino-2-cephem-4α-carboxylic acid | 0.5 g | CSCC1=CS[C@H]2N([C@H]1C(=O)O)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C17H18N2O4S2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 3-methylthiomethyl-7β-phenylacetylamino-2-cephem-4α-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)[C@H]1C(=CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)CSC | C30H28N2O4S2
